Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Nausea, headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ T2DM, HTN, ETOH use disorder, recurrent pancreatitis
transferred for evaluation of elevated AG (23) from OSH ED.
Presented to ___ with vomiting and generalized weakness.
Initial labs suggesting dehydration and showing metabolic
acidosis with ph 7.09, Anion gap of 23, bicarb 11, pCO2 on VBG
37, lactate 6.3, ETOH 11mg/dL, glucose 147. Received 2L NS and
Zofran with resolution of N/V.

In ___ patient notes that he last drank 1 pint of brandy
yesterday, which he does ~3x weekly. Pt drinks ETOH chronically
though does so on and off. Notably, the past month was one of
those "on" episodes iso returning to childhood home of ___ and
doing lots of social drinking while spending time with family
members. Since ___ has had ___ episodes of pancreatitis. Pt
notes he is currently taking Isoniazid for latent TB tx (5 
months
in). Patient's current sxs are only headache and abdominal pain,
no back pain. No chest pain, SOB, F/C. Denies hallucinations.
Denies taking extra tablets of Isoniazid.

In ED he was cooperative, AAOx3, mild TTP of epigastric and
periumbilical region. Vitals stable. Gap metabolic acidosis
redemonstrated on labs (improved) with VBG pH 7.21 and pCO2 35,
serum bicarb 15, glucose 184, UA positive for glucose (300) and
ketones (150). Serum ETOH negative, LFTs and lipase 
unremarkable.
Lactate 3.3. Received 1L NS with improvement in acidosis and
normalization of lactate. Also has mild normocytic anemia.

Upon transfer to floor, all of patient's presenting sx (N/V,
abdominal pain, generalized weakness) had resolved or
dramatically improved, asking when he can leave.

REVIEW OF SYSTEMS:

Complete ROS obtained and is otherwise negative.

 
Past Medical History:
-T2DM
-ETOH use disorder
-Recurrent pancreatitis
-HTN
-BRBPR

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VITALS: T 98.0 PO, BP 153 / 85, HR 86, RR 18, O2 97 Ra 
GEN: NAD, AAOx3
NECK: JVP not appreciable
HEART: RRR, no MRG
LUNGS: CTAB, normal WOB
ABD: mildly tender to palpation over epigastrum, soft,
nondistended
EXT: no ___ edema

DISCHARGE PHYSICAL EXAM
========================
VITALS: ___ 0811 Temp: 97.7 PO BP: 137/82 HR: 75 RR: 18 O2
sat: 98% O2 delivery: Ra FSBG: 207 
GEN: Lying down in bed, ordering breakfast, in NAD.
HEART: RRR, no MRG
LUNGS: CTAB, good air movement throughout, no
wheezes/rales/rhonchi
ABD: +BS, non-distended, soft, non-tender to palpation 
throughout
EXT: no ___ edema

 
Pertinent Results:
ADMISSION LABS
===============
___ 03:20PM BLOOD WBC-8.4 RBC-4.20* Hgb-12.9* Hct-38.9* 
MCV-93 MCH-30.7 MCHC-33.2 RDW-13.4 RDWSD-45.7 Plt ___
___ 03:20PM BLOOD Neuts-81.1* Lymphs-12.0* Monos-6.5 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-6.77* AbsLymp-1.00* 
AbsMono-0.54 AbsEos-0.00* AbsBaso-0.02
___ 03:20PM BLOOD Glucose-184* UreaN-14 Creat-0.9 Na-140 
K-4.5 Cl-110* HCO3-10* AnGap-19*
___ 07:35PM BLOOD Glucose-147* UreaN-13 Creat-0.9 Na-140 
K-4.5 Cl-109* HCO3-13* AnGap-16
___ 03:20PM BLOOD ALT-47* AST-40 AlkPhos-67 TotBili-0.3
___ 03:20PM BLOOD Lipase-17
___ 03:20PM BLOOD Albumin-3.7
___ 07:35PM BLOOD Iron-90
___ 07:35PM BLOOD calTIBC-299 VitB12-372 Ferritn-211 
TRF-230
___ 07:35PM BLOOD Osmolal-290
___ 03:20PM BLOOD ASA-NEG Acetmnp-NEG
___ 07:35PM BLOOD Ethanol-NEG
___ 03:21PM BLOOD ___ pO2-35* pCO2-35 pH-7.21* 
calTCO2-15* Base XS--14
___ 07:41PM BLOOD ___ pO2-79* pCO2-31* pH-7.31* 
calTCO2-16* Base XS--9
___ 03:21PM BLOOD Lactate-3.3*
___ 07:41PM BLOOD Lactate-1.8
___ 03:21PM BLOOD O2 Sat-57

DISCHARGE LABS
===============
___ 07:45AM BLOOD WBC-4.6 RBC-4.10* Hgb-12.5* Hct-36.5* 
MCV-89 MCH-30.5 MCHC-34.2 RDW-13.2 RDWSD-43.1 Plt ___
___ 04:30AM BLOOD Ret Aut-1.3 Abs Ret-0.05
___ 04:30AM BLOOD Glucose-241* UreaN-13 Creat-1.0 Na-138 
K-4.1 Cl-108 HCO3-21* AnGap-9*
___ 07:45AM BLOOD Glucose-185* UreaN-13 Creat-0.9 Na-135 
K-4.2 Cl-104 HCO3-22 AnGap-9*
___ 04:30AM BLOOD Calcium-8.5 Phos-1.1* Mg-1.9 Iron-122
___ 07:45AM BLOOD Calcium-8.7 Phos-1.1* Mg-2.0
___ 04:30AM BLOOD calTIBC-272 VitB12-363 Folate->20 
Ferritn-206 TRF-209
___ 05:05AM BLOOD pO2-127* pCO2-40 pH-7.34* calTCO2-23 Base 
XS--3 Comment-GREEN TOP 

IMAGING
========
None

MICROBIOLOGY
=============
__________________________________________________________
___ 3:46 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
SUMMARY
========
___ w/ T2DM, HTN, ETOH use disorder, recurrent pancreatitis, 
presented to ___ vomiting and generalized weakness, 
found to have anion gap metabolic acidosis, transferred to ___ 
for further management.

ACTIVE ISSUES:
=============
#Anion gap metabolic acidosis
Likely ___ ketoacidosis and lactic acidosis ___ alcohol use. 
Glucose WNL, so unlikely that T2DM was contributing. Isoniazid 
use with concurrent alcohol use disorder could also be 
contributing to lactic acidosis, although LFTs largely WNL 
(slightly elevated ALT). Delta/delta was 1, so pure metabolic 
acidosis. Patient received IVF with closure of the anion gap and 
resolution of his lactic acidosis. He was continued on isoniazid 
as patient has been taking it for 5 months, and per CDC 
guidelines, he can take it for 6 total months for latent TB if 
he has issues with LFTs. 9 months would be ideal but should 
consider risk/benefit.  

#Mild normocytic anemia
Likely ___ nutritional deficiency iso EtOH use, although vitamin 
B12, folate, and iron were WNL. Discharge Hgb 12.5.

#ETOH use disorder
Was previously on naltrexone but couldn't tolerate due to 
nausea. He was offered addiction psychiatry, but he was not 
interested. Social work also saw the patient and offered 
resources for alcohol cessation. He was continued on home 
thiamine and folate supplements. He was placed on CIWA protocol 
and was not scoring prior to discharge.

#HTN
Previously on lisinopril but stopped because couldn't tolerate 
due to vomiting. SBPs ranged 130s-160s while in house.

#Intermittent BRBPR
Was to start outpatient prep on ___ and have colonoscopy on 
___ at ___ (where his PCP ___. He 
was placed on clear liquid diet on ___ and told to do his prep 
at home as scheduled.

#T2DM
- Held home metformin and glimepiride
- Placed on HISS

CORE MEASURES
=============
#CODE: Full code (confirmed)
#CONTACT: ___, wife, ___

TRANSITIONAL ISSUES
====================
[ ] HTN - Consider alternative anti-hypertensive
[ ] Latent TB - Consider 6 month as opposed to 9 month therapy 
given his alcohol use. He should have regular LFT monitoring as 
at higher risk for liver failure. 
[ ] Isoniazid - Please monitor his LFTs on a regular basis
[ ] EtOH use disorder - Patient open to considering other 
pharmaceutical options to help with his alcohol use
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isoniazid ___ mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Thiamine 100 mg PO DAILY 
5. glimepiride 1 mg oral DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Vitamin B-6 (pyridoxine (vitamin B6)) 50 mg oral DAILY 
8. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  glimepiride 1 mg oral DAILY  
3.  Isoniazid ___ mg PO DAILY  
4.  MetFORMIN (Glucophage) 1000 mg PO BID  
5.  Multivitamins 1 TAB PO DAILY  
6.  Omeprazole 20 mg PO DAILY  
7.  Thiamine 100 mg PO DAILY  
8.  Vitamin B-6 (pyridoxine (vitamin B6)) 50 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Anion gap metabolic acidosis

SECONDARY DIAGNOSES
====================
Normocytic anemia
Alcohol use disorder
Hypertension
Type 2 diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted because you were having nausea, feeling 
weak, and you had concerning abnormalities with some of your 
labs.

WHAT WAS DONE WHILE I WAS HERE?
- You were given fluids through your IV.
- Your lab values were monitored until they returned to normal 
levels.

WHAT DO I NEED TO DO ONCE I LEAVE?
- Please take your medications as prescribed.
- Please keep your appointments.
- You should not drink alcohol while you are on the isoniazid, 
as it can cause severe and irreversible liver damage.
- Take your colonoscopy prep as described.

Be well,

Your ___ Care Team
 
Followup Instructions:
___